US05576359
Using methyl methacrylate (20.0 g, 0.2 mole), glycidyl methacrylate (14.2 g, 0.1 mole) and n-butyl methacrylate (7.1 g, 0.05 mole), the polymerization was carried out in the same manner as described in Synthesis Example 12, (1), and the precipitate was filtered and dried under reduced pressure to afford 31.7 g of poly(methyl methacrylate/glycidyl methacrylate/n-butyl methacrylate) as white powders having Mw 35000 and Mn 19200 (GPC with polystyrene calibration). The composition of the polymer was found to be methyl methacrylate unit and glycidyl methacrylate unit and n-butyl methacrylate unit in molar ratio of ca. 4:2:1 based on 1HNMR analysis.

reactant | methyl methacrylate | 0.2 mole, 20.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | glycidyl methacrylate | 0.1 mole, 14.2 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | n-butyl methacrylate | 0.05 mole, 7.1 g | C(C(=C)C)(=O)OCCCC | C8H14O2
product | methyl methacrylate glycidyl methacrylate n-butyl methacrylate | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)OCC1CO1.C(C(=C)C)(=O)OCCCC | InChI=1S/C8H14O2.C7H10O3.C5H8O2/c1-4-5-6-10-8(9)7(2)3;1-5(2)7(8)10-4-6-3-9-6;1-4(2)5(6)7-3/h2,4-6H2,1,3H3;6H,1,3-4H2,2H3;1H2,2-3H3
